data/specific_train_final.csv
"[H:13][CH:12]([CH:2]([C:3]([CH3:11])([CH2:4][O:5][N+:6](=[O:8])[O-:7])[O:9][O:10])[OH:1])[O:14][OH:15]>>[H:13][O:10][O:9][C:3]([CH3:11])([CH2:4][O:5][N+:6](=[O:8])[O-:7])[CH:2]([CH:12][O:14][OH:15])[OH:1] 10-13,10; 12,13-13,10;13,12-12",Room Temperature,Propagation,abstraction
"CC1=C(C(=CC=C1)C[O:20])C.[N+:10](=O)[O-]>>CC1=C(C(=CC=C1)C[O:20][N+:10](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C(C(C)(C)O)O[O:20].[N+](=O)([O-])[O:10]>>CC(=O)C(C(C)(C)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC[C:11]12CC(C(C=C1)(C)O[O])O[O:10]2>>[H:20][O:10]OC1C[C:11](C=CC1(C)O[O])CC.[O:21][O] 10-10,20; 21,20-10,20; 20,21-21",Room Temperature,Initiation,abstraction
"CC(C)C(C[O:20][O:21]N=O)O>>CC(C)C(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:8][C:7](=[O:9])[CH:6]([C:10]([CH3:11])([CH3:13])[OH:12])[O:5][O:4][O:3][N+:2](=[O:1])[O-:14]>>[CH3:8][C:7](=[O:9])[CH:6]([C:10]([CH3:11])([CH3:13])[OH:12])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:14] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)C(CO[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(CO[N+](=O)[O-])C(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C(O)(Cl)Cl)[O:21][O:20][O].[N+](=O)[O-]>>C(C(O)(Cl)Cl)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C/C/1=C/CCC(C2CC(C2CC1)(C)C)(CO)O[O:20].[N+](=O)([O-])[O:10]>>C/C/1=C/CCC(C2CC(C2CC1)(C)C)(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CC=O)[O:20].[N+:10](=O)[O-]>>CCC(CC=O)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][O:5].[CH3:1][S:2][CH3:3]>>[H:4][O:5][S:2]([CH3:1])[CH3:3] 2-2,5;5-2,5",Room Temperature,Propagation,addition
"CCC12C=C[CH:10]C(C1O)([O:20][O:21]2)C>>CCC1(C=C[CH:10]2C(C1O)([O:20]2)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCCC(CC)O[O:20].[N+](=O)([O-])[O:10]>>CCCCCCC(CC)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C(C[O:20][O:21]N=O)O>>CC(=O)C(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C1=CC=CC=C1)O[O:20].[N:10]=O>>CC(C)(C1=CC=CC=C1)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]O.CCC(OC(=O)C)O[O:10]>>[H:20][O:10]OC(CC)OC(=O)C.O[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:1][CH:2]([CH3:3])[C:4]12[CH:13]=[CH:12][CH:10]([CH:9]([CH:7]1[OH:8])[O:6][O:5]2)[O:11].[N:15](=[O:16])[O:14]>>[CH3:1][CH:2]([CH3:3])[C:4]12[CH:13]=[CH:12][CH:10]([CH:9]([CH:7]1[OH:8])[O:6][O:5]2)[O:11].[N+:15](=[O:16])[O-:14] 15-14,Room Temperature,Propagation,ha resonance
"CCC1(C=CC2C(C1(OO2)C)O)O[O:10][O:20]N=O>>CCC1(C=CC2C(C1(OO2)C)O)O[O:10].[O:20]N=O 10,20-10; 10,20-20",Room Temperature,Initiation,homolyze
"CCC12C(C=CC(C1O)(OO2)C)OO[O:20][N+:10]([O-])=O>>CCC12C(C=CC(C1O)(OO2)C)OO[O:20].[N+:10]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(CO)CO[O:10]>>[H:20][O:10]OCC(C)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)OCCO[O:20].[N+](=O)([O-])[O:10]>>CC(=O)OCCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=C(C)C=C(C)C=C1CC[O][O:10].[N:20]=[O]>>C1=C(C)C=C(C)C=C1CCO[O:10][N:20]=[O] 10-10,20; 20-10,20",Room Temperature,Termination,recombine
"[H:7][O:6][O:5][C:3]([CH3:4])([CH2:8][O:9][N+:10](=[O:12])[O-:11])[C:2]=[O:1]>>[H:7][O:6][O:5][C:3]([CH3:4])[CH2:8][O:9][N+:10](=[O:12])[O-:11].[C:2]=[O:1] 2,3-3;2,3-2",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C=CC=C1)CCC.[OH:10]>>[H:20][OH:10].CCCC1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)CC(C)[O:20][O:21]N=O>>CC(C)CC(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:4][CH2:3][CH:2]([C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1)[O:1].[N:12](=[O:13])[O:11]>>[CH3:4][CH2:3][CH:2]([C:5]1=[CH:6][CH:7]=[CH:8][CH:9]=[CH:10]1)[O:1].[N+:12](=[O:13])[O-:11] 12-11,Room Temperature,Propagation,ha resonance
"C(C(Cl)(Cl)Cl)O[O:20].[N:10]=O>>C(C(Cl)(Cl)Cl)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)OC(C)(C)CO[O:20].[N:10]=O>>CC(=O)OC(C)(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][O:2][O:3].[CH3:4][C:5](=[CH:11][O:12][O:13])[CH2:6][O:7][N+:8](=[O:10])[O-:9]>>[H:1][O:13][O:12][CH:11]=[C:5]([CH3:4])[CH2:6][O:7][N+:8](=[O:10])[O-:9].[O:2][O:3] 13-13,1; 1,2-13,1; 1,2-2",Room Temperature,Propagation,abstraction
"CC(C[O:21][O:20][O])OC(=O)C.[N+](=O)[O-]>>CC(C[O:21])OC(=O)C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:21](=[C:20](C)C)C.[N+](=O)([O-])[O:10]>>C[C:21](C)[C:20](C)(C)[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
